US09422271B2
5-(4-(5-tert-butyl-1H-pyrazol-3-ylamino)-5-chloropyrimidin-2-yl)thiophene-2-sulfonamide (Compound 236)
A mixture of N-tert-butyl-5-(4-(5-tert-butyl-1H-pyrazol-3-ylamino)-5-chloropyrimidin-2-yl)thiophene-2-sulfonamide (95 mg, 0.22 mmol) and BCl3 (4 mL of 1N solution in DCM) in DCM (8 mL) was stirred for 0.5 h, After addition of water and extraction with EA (3×), the combined organic layers were dried (NaHSO4), filtered. The filtrate was concentrated to afford the title compound 5-(4-(5-tert-butyl-1H-pyrazol-3-ylamino)-5-chloropyrimidin-2-yl)thiophene-2-sulfonamide (C-236) (50 mg, 62%). LC-MS (m/z)=413 [M+H]+; 1H NMR (400 MHz, DMSO-d6): 1.34 (s, 9H), 6.57 (s, 1H), 7.58 (d, J=4.0 Hz, 1H), 7.75 (d, J=3.6 Hz, 1H), 7.81 (s, 2H), 8.47 (s, 1H), 9.52 (s, 1H).

reactant | N-tert-butyl-5-(4-(5-tert-butyl-1H-pyrazol-3-ylamino)-5-chloropyrimidin-2-yl)thiophene-2-sulfonamide | 0.22 mmol, 95 mg | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC=C(C(=N1)NC1=NNC(=C1)C(C)(C)C)Cl | C19H25ClN6O2S2
reactant | BCl3 | 1N, 4 mL | B(Cl)(Cl)Cl | BCl3
reactant | water | O | H2O
reactant | EA | CC(OCC)=O | C4H8O2
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-(5-tert-butyl-1H-pyrazol-3-ylamino)-5-chloropyrimidin-2-yl)thiophene-2-sulfonamide | 50 mg, 62% | C(C)(C)(C)C1=CC(=NN1)NC1=NC(=NC=C1Cl)C1=CC=C(S1)S(=O)(=O)N | C15H17ClN6O2S2
